US04263394
β chlorocinnamaldehyde was prepared by the following method. Phosphoryl chloride (24 ml, 0.26 mol.) was slowly added to anhydrous dimethyl formamide (40 ml) maintaining a temperature of 0° C. and the resulting solution stirred for 30 minutes. Acetophenone (24 g 0.2 mol.) was also dissolved in anhydrous dimethyl formamide (25 ml) and the mixture slowly added to the phosphoryl chloride solution. Whilst stirring, the reaction mixture was allowed to attain room temperature, stirred for two hours and then poured into an agitated solution of sodium acetate (300 g) in water (750 ml), After stirring for 30 minutes the product was extracted into ether, the ether extracts were dried over magnesium sulphate and the ether was then removed to yield 28.8 g of crude product which was used without further purification as follows.

reactant | Phosphoryl chloride | 0.26 mol, 24 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Acetophenone | 0.2 mol, 24 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium acetate | 300 g | C(C)(=O)[O-].[Na+]
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 750 ml | O | H2O
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | chlorocinnamaldehyde | ClC(C=O)=CC1=CC=CC=C1 | C9H7ClO
